US07728018B2
1-Methyl-1,2,5,6-tetrahydro-pyridine-3-carbaldehyde
2.88 mL oxalyl chloride (2.4 equiv.) was dissolved in 20 mL DCM. The mixture was cooled to −78° C. and a solution of 3.37 mL DMSO (2.0 equiv.) in 10 mL DCM was added dropwise. The mixture was stirred for 15 minutes at −78° C. A solution of 3.0 g (1-Methyl-1,2,5,6-tetrahydro-pyridin-3-yl)-methanol in 10 mL DCM was added dropwise while keeping the temperature below −65° C. The mixture was stirred for 15 minutes at −78° C. 9.81 mL Triethylamine (3.0 equiv.) was added dropwise and subsequently the mixture was allowed to warm to room temperature. 50 mL DCM was added to keep the mixture stirrable. The mixture was stirred for 1 hour at room temperature. H2O was added, the organic layer was separated and the aqueous layer again extracted with DCM. The combined organic layers were dried over Na2SO4, filtrated and concentrated to yield 3.24 g of an orange oil (85% pure) which was used without further purification in the subsequent step. 1H NMR (400 MHz, CDCl3) δ 2.43 (s, 3H), 2.48-2.60 (m, 4H), 3.11-3.15 (m, 2H), 6.85 (m, 1H), 9.43 (s, 1H).

reactant | oxalyl chloride | 2.88 mL, 2.4 equiv. | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 3.37 mL, 2.0 equiv. | CS(=O)C | C2H6OS
reactant | (1-Methyl-1,2,5,6-tetrahydro-pyridin-3-yl)-methanol | 3.0 g | CN1CC(=CCC1)CO | C7H13NO
reactant | Triethylamine | 9.81 mL, 3.0 equiv. | C(C)N(CC)CC | C6H15N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
product | 1-Methyl-1,2,5,6-tetrahydro-pyridine-3-carbaldehyde | 3.24 g, 85% | CN1CC(=CCC1)C=O | C7H11NO
